US08198453B2
To a solution of (R)-tert-butyl 3-((R)-(3-fluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate (11 g, 31.16 mmol) in dry CH2Cl2 (140 mL) was added Et3N (12.60 g, 16.68 mL, 124.65 mmol, 4 eq) at −5-0° C. Then a solution of MsCl (7.1 g, 4.72 mL, 62.32 mmol, 2 eq) in dry CH2Cl2 (40 mL) was added dropwise at the same temperature. After addition, it was allowed to warm to rt gradually. Water (100 mL) was added. The aqueous layer was extracted with CH2Cl2 (3×80 mL), the combined organic layers was washed with 10% citric acid, sat. NaHCO3 and brine, then dried over Na2SO4, filtered and concentrated to give (R)-tert-butyl 3-((R)-(3-fluorophenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate (13.8 g), which was used in the next step without purification.

reactant | (R)-tert-butyl 3-((R)-(3-fluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate | 31.16 mmol, 11 g | FC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCO | C19H28FNO4
reactant | Et3N | 124.65 mmol, 16.68 mL, 12.60 g, 4 eq | CCN(CC)CC | C6H15N
reactant | MsCl | 62.32 mmol, 4.72 mL, 7.1 g, 2 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 100 mL | O | H2O
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-(3-fluorophenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate | 13.8 g | FC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C | C20H30FNO6S
